US04585774
3.3 Grams of 3,4-dimethoxybenzoic acid was dissolved in 30 ml of dimethylformamide, and to this solution was added 2.4 g of triethylamine. Under ice-cooled condition with stirring, 2.75 g of isobutyl chloroformate was added dropwise and the mixture obtained was stirred for 30 minutes. To this reaction mixture was added dropwise a dimethylformamide solution of 5.5 g of o-carbamoyl-α-(1-piperazinyl)acetanilide and was stirred for 5 hours. The reaction mixture was concentrated to dryness and extracted with chloroform-1N sodium hydroxide aqueous solution. The chloroform layer was washed with water, dried and chloroform was removed by distillation, the residue thus obtained was purified by a silica gel column chromatography and the product obtained was converted into a hydrochloride by adding hydrochloric acid-ethanol, recrystallized from water-acetone to obtain 1.5 g of o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate in the form of colorless needle-like crystals. Melting point: 122.0°-125.0° C. (decomposed).

reactant | 3,4-dimethoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | isobutyl chloroformate | 2.75 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | o-carbamoyl-α-(1-piperazinyl)acetanilide | 5.5 g | C(N)(=O)C1=C(NC(CN2CCNCC2)=O)C=CC=C1 | C13H18N4O2
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate | 1.5 g | O.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H26N4O5.ClH.H2O/c1-30-18-8-7-15(13-19(18)31-2)22(29)26-11-9-25(10-12-26)14-20(27)24-17-6-4-3-5-16(17)21(23)28;;/h3-8,13H,9-12,14H2,1-2H3,(H2,23,28)(H,24,27);1H;1H2
